US04105776
A solution of 1-[3-(tetrahydropyran-2-ylthio)-2-methylpropanoyl]-L-proline (1 g.) in a mixture of methanol (25 ml.) and concentrated hydrochloric acid (25 ml.) is stored at room temperature for 30 minutes. The solvents are removed in vacuo to yield 1-(3-mercapto-2-methylpropanoyl)-L-proline. Rf : 0.35 (silica gel, Benzene/acetic acid, 3:1), Rf 0.5 (silica gel, Methyl-ethylketone/acetic acid/pyridine/water 14:1:2:1) identical to the compound of Example 34.

reactant | 1-[3-(tetrahydropyran-2-ylthio)-2-methylpropanoyl]-L-proline | 1 g | O1C(CCCC1)SCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C14H23NO4S
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
product | 1-(3-mercapto-2-methylpropanoyl)-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C9H15NO3S
